US07470705B2
Step 2. Preparation of (+/−)-cis-4-Acetylamino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Add isopropyl chloroformate (3.10 mL, 2.82 mmol, 1.0 M in toluene) dropwise to a solution of (+/−)-cis-N-(2-ethyl-6-methoxy-1,2,3,4-tetrahydro-[1,5]naphthyridin-4-yl)acetamide (702 mg, 3.102 mmol) and pyridine (0.677 mL, 8.46 mmol) in dichloromethane (15 mL) at 0° C. under an atmosphere of nitrogen and stir at room temperature for 10 min. Add 1 M HCl and separate the layers. Extract the aqueous layer with dichloromethane. Dry the organic layers over anhydrous sodium sulfate, filter, and remove the solvent under reduced pressure, to afford the title compound (895 mg, 95%). MS (ES+): 336 (M+H).

reactant | isopropyl chloroformate | 2.82 mmol, 1.0 M, 3.10 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | (+/−)-cis-N-(2-ethyl-6-methoxy-1,2,3,4-tetrahydro-[1,5]naphthyridin-4-yl)acetamide | 3.102 mmol, 702 mg | C(C)[C@@H]1NC2=CC=C(N=C2[C@@H](C1)NC(C)=O)OC | C13H19N3O2
reactant | pyridine | 8.46 mmol, 0.677 mL | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1 M | Cl | ClH
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (+/−)-cis-4-Acetylamino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 895 mg, 95% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)OC)NC(C)=O)CC | C17H25N3O4
